US09302991B2
<Step-1>:methyl 6-(2,2,3,3,3-pentafluoropropoxy)nicotinate
To a stirred suspension of sodium hydride (3.9 g, 96 mmol, 60% in oil) in N,N-dimethylacetamide (160 mL) is added dropwise 2,2,3,3,3-pentafluoropropan-1-ol (6.4 mL, 64 mmol) at 0° C. After stirring for 10 minutes, a solution of methyl 6-chloronicotinate (5.5 g, 32 mmol) in N,N-dimethylacetamide (10 mL) is added dropwise at 0° C., and the mixture is stirred for 30 minutes at room temperature. Then, the mixture is stirred at 90° C. for 2 hours. After cooled to room temperature, 2M aqueous sodium hydroxide is added (pH is around 6). The mixture is extracted with n-hexane/ethyl acetate (1:2, 200 mL). The organic layer is washed with water, brine, and dried over sodium sulfate. The organic solvent is concentrated under reduced pressure, and the residue is purified by column chromatography on amine gel eluting with n-hexane/ethyl acetate (30:1) to give 3.1 g (34% yield) of the title compound as brown oil. MS (ESI) m/z: 286 (M+H)+.

reactant | sodium hydride | 96 mmol, 3.9 g | [H-].[Na+]
reactant | 2,2,3,3,3-pentafluoropropan-1-ol | 64 mmol, 6.4 mL | FC(CO)(C(F)(F)F)F | C3H3F5O
reactant | methyl 6-chloronicotinate | 32 mmol, 5.5 g | ClC1=NC=C(C(=O)OC)C=C1 | C7H6ClNO2
reactant | sodium hydroxide | 2M | [OH-].[Na+]
solvent | N,N-dimethylacetamide | 160 mL | CN(C(C)=O)C | C4H9NO
solvent | N,N-dimethylacetamide | 10 mL | CN(C(C)=O)C | C4H9NO
product | methyl 6-(2,2,3,3,3-pentafluoropropoxy)nicotinate | 3.1 g, 34% yield | FC(COC1=NC=C(C(=O)OC)C=C1)(C(F)(F)F)F | C10H8F5NO3
